US07459472B2
4-Methoxy-4′-trifluoromethyl-biphenyl-3-carboxylic acid [2-(3′-chloro-4′-fluoro-biphenyl-2-yl)-1-(R)-(3-methyl-[1,2,4]oxadiazol-5-yl)-ethyl]-amide (0.081 g) was prepared from 2-(3′-Chloro-4′-fluoro-biphenyl-2-yl)-1-(R)-(3-methyl-[1,2,4]oxadiazol-5-yl)-ethylamine hydrochloride salt (0.075 g, 0.2 mmol) which was prepared from 2-(R)-tert-Butoxycarbonylamino-2-(3′-chloro-4′-fluoro-biphenyl-2-yl)-propionic acid following general procedure N and 4-methoxy-4′-trifluoromethyl-biphenyl-3-carboxylic acid (0.06 g, 0.2 mmol) following general procedure A.

reactant | 2-(3′-Chloro-4′-fluoro-biphenyl-2-yl)-1-(R)-(3-methyl-[1,2,4]oxadiazol-5-yl)-ethylamine hydrochloride salt | 0.2 mmol, 0.075 g | Cl.ClC=1C=C(C=CC1F)C1=C(C=CC=C1)C[C@H](C1=NC(=NO1)C)N
reactant | 2-(R)-tert-Butoxycarbonylamino-2-(3′-chloro-4′-fluoro-biphenyl-2-yl)-propionic acid | C(C)(C)(C)OC(=O)N[C@](C(=O)O)(C)C1=C(C=CC=C1)C1=CC(=C(C=C1)F)Cl | C20H21ClFNO4
reactant | 4-methoxy-4′-trifluoromethyl-biphenyl-3-carboxylic acid | 0.2 mmol, 0.06 g | COC1=C(C=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C(=O)O | C15H11F3O3
product | 4-Methoxy-4′-trifluoromethyl-biphenyl-3-carboxylic acid [2-(3′-chloro-4′-fluoro-biphenyl-2-yl)-1-(R)-(3-methyl-[1,2,4]oxadiazol-5-yl)-ethyl]-amide | 0.081 g | ClC=1C=C(C=CC1F)C1=C(C=CC=C1)C[C@H](C1=NC(=NO1)C)NC(=O)C=1C=C(C=CC1OC)C1=CC=C(C=C1)C(F)(F)F | C32H24ClF4N3O3
